US04654343
N-[3-(3-Methyl-1,2,4-triazolo[4,3-b]pyridazin-6-yl)phenyl]cyclopropanecarboxamide
To a solution of 7.6 g of 3-methyl-6-(3-aminophenyl)-1,2,4-triazolo[4,3-b]pyridazine in 1.5 liters of dichloromethane was added 6 ml of N,N-diisopropylethylamine and 3.1 ml of cyclopropane carboxylic acid chloride. The solution was stirred at room temperature for 4 hours, washed with 200 ml of saturated sodium bicarbonate solution, dried and the solvent removed in vacuo. The residue was crystallized from dichloromethane-hexane to give 2.24 g of tan crystals, mp 255°-258° C. A sample recrystallized from dichloromethane-hexane gave white crystals, mp 259°-262° C.

reactant | 3-methyl-6-(3-aminophenyl)-1,2,4-triazolo[4,3-b]pyridazine | 7.6 g | CC1=NN=C2N1N=C(C=C2)C2=CC(=CC=C2)N | C12H11N5
reactant | N,N-diisopropylethylamine | 6 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | cyclopropane carboxylic acid chloride | 3.1 ml | C1(CC1)C(=O)Cl | C4H5ClO
solvent | dichloromethane | 1.5 liters | ClCCl | CH2Cl2
product | N-[3-(3-Methyl-1,2,4-triazolo[4,3-b]pyridazin-6-yl)phenyl]cyclopropanecarboxamide | 2.24 g | CC1=NN=C2N1N=C(C=C2)C=2C=C(C=CC2)NC(=O)C2CC2 | C16H15N5O
